US07572808B2
B. Preparation of 2-(4-(7-(4-chlorophenyl)-3-oxo-2-((6-(trifluoromethyl)pyridin-3-yl)methyl)-2,3-dihydro-[1,2,4]triazolo[4,3-a]pyridin-8-yl)phenyl)-2-hydroxyacetonitrile
To a stirred solution of 4-(7-(4-chlorophenyl)-3-oxo-2-((6-(trifluoromethyl)pyridin-3-yl)methyl)-2,3-dihydro-[1,2,4]triazolo[4,3-a]pyridin-8-yl)benzaldehyde (38.0 mg, 0.075 mmol) in dichloromethane (1 mL) at room temperature under argon was added cyanotrimethylsilane (9.3 mg, 0.093 mmol) and then ZnI2 (2.4 mg, 0.0075 mmol). After 70 h, the reaction mixture was diluted with water and extracted twice with dichloromethane. The organic extracts were combined, dried (MgSO4), filtered and evaporated. Purification by preparative reverse phase HPLC (methanol-water-trifluoroacetic acid), pooling the fractions, evaporating, redissolving the residuum in dichloromethane, washing with saturated aq. NaHCO3 solution, drying (MgSO4), filtering and evaporating provided the title compound as a light yellow solid, 10.4 mg, 26%. HPLC/MS: retention time=3.56 min, [M+H]+=536. 1H NMR (CDCl3): δ 8.71 (d, J=1.7 Hz, 1H), 7.85 (dd, J=1.6 Hz, 7.7 Hz, 1H), 7.61 (d, J=8.3 Hz, 1H), 7.39 (d, J=8.3 Hz, 1H), 7.24 (d, J=6.5 Hz, 1H), 7.17 (d, J=8.3 Hz, 2H), 7.04 (d, J=8.3 Hz, 2H), 6.95 (d, J=6.6 Hz, 2H), 6.60 (d, J=7.2 Hz, 1H), 5.37 (s, 1H), 5.18 (s, 1H), 3.30 (br s, 1H).

reactant | 4-(7-(4-chlorophenyl)-3-oxo-2-((6-(trifluoromethyl)pyridin-3-yl)methyl)-2,3-dihydro-[1,2,4]triazolo[4,3-a]pyridin-8-yl)benzaldehyde | 0.075 mmol, 38.0 mg | ClC1=CC=C(C=C1)C1=C(C=2N(C=C1)C(N(N2)CC=2C=NC(=CC2)C(F)(F)F)=O)C2=CC=C(C=O)C=C2 | C26H16ClF3N4O2
reactant | cyanotrimethylsilane | 0.093 mmol, 9.3 mg | C(#N)[Si](C)(C)C | C4H9NSi
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
catalyst | ZnI2 | 0.0075 mmol, 2.4 mg | [Zn+2].[I-].[I-]
product | 2-(4-(7-(4-chlorophenyl)-3-oxo-2-((6-(trifluoromethyl)pyridin-3-yl)methyl)-2,3-dihydro-[1,2,4]triazolo[4,3-a]pyridin-8-yl)phenyl)-2-hydroxyacetonitrile | ClC1=CC=C(C=C1)C1=C(C=2N(C=C1)C(N(N2)CC=2C=NC(=CC2)C(F)(F)F)=O)C2=CC=C(C=C2)C(C#N)O | C27H17ClF3N5O2
